US06972340B2
methyl 6-{4-[(N-acetyl-4-[(carboxycarbonyl)(2-carboxyphenyl)amino]-3-ethylphenylalanyl)amino]butoxy}-3-bromo-2-hydroxybenzoate
Methyl 6-{4-[(N-acetyl-4-{{2-[(benzhydryloxy)carbonyl]phenyl}[(benzyloxy)(oxo)acetyl]amino}-3-ethylphenylalanyl)amino]butoxy}-3-bromo-2-hydroxybenzoate was treated with trifluoroacetic acid (500 μL)/methylene chloride (500 μL) at ambient temperature for 4 hours, concentrated under reduced pressure and co-evaporated with acetonitrile (2×10 mL). The residue was taken up in 1N NaOH (3 eq.)/methanol (250 μL)/THF (250 μL), stirred for 3 hours and concentrated under reduced pressure to provide the titled compound. MS (ESI (+)) m/e 742, 743 (M+H)+; 1H NMR (500 MHz, DMSO-d6) 8.08-7.92 (m, 2H), 7.45-6.94 (m, 7H), 6.64 (d, 2H), 4.43-4.38 (m, 1H), 3.90-3.86 (m, 2H), 3.78 (s, 3H), 3.10-3.05 (m, 2H), 2.90-2.85 (m, 1H), 2.75-2.62(m, 3H), 1.76(s, 3H), 1.64-1.58 (m, 2H), 1.52-1.45 (m, 2H), 1.18 (t, 3H).

reactant | Methyl 6-{4-[(N-acetyl-4-{{2-[(benzhydryloxy)carbonyl]phenyl}[(benzyloxy)(oxo)acetyl]amino}-3-ethylphenylalanyl)amino]butoxy}-3-bromo-2-hydroxybenzoate | C(C)(=O)N[C@@H](CC1=CC(=C(C=C1)N(C(C(=O)OCC1=CC=CC=C1)=O)C1=C(C=CC=C1)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)CC)C(=O)NCCCCOC1=CC=C(C(=C1C(=O)OC)O)Br | C54H52BrN3O11
reactant | trifluoroacetic acid | 500 μL | FC(C(=O)O)(F)F | C2HF3O2
reactant | methylene chloride | 500 μL | C(Cl)Cl | CH2Cl2
reactant | NaOH | 1N, 3 eq. | [OH-].[Na+]
solvent | THF | 250 μL | C1CCOC1 | C4H8O
solvent | methanol | 250 μL | CO | CH4O
product | methyl 6-{4-[(N-acetyl-4-[(carboxycarbonyl)(2-carboxyphenyl)amino]-3-ethylphenylalanyl)amino]butoxy}-3-bromo-2-hydroxybenzoate | C(C)(=O)N[C@@H](CC1=CC(=C(C=C1)N(C1=C(C=CC=C1)C(=O)O)C(=O)C(=O)O)CC)C(=O)NCCCCOC1=CC=C(C(=C1C(=O)OC)O)Br | C34H36BrN3O11
